US05366972
b) 2-Chloro-6-(imidazol-1-yl)-4-methylpyridine-3-carboxamide
A solution of 2-chloro-3-cyano-6-(imidazol-1-yl)-4-methylpyridine (2.1 g) in concentrated sulfuric acid (5 mL) was heated at 130° C. for 15 minutes. The mixture was cooled to room temperature, diluted with water (10 mL), and adjusted to pH 7 with 20% sodium hydroxide solution followed by solid sodium bicarbonate. The crystalline product was removed by filtration and dried to give 2.35 g of the title compound, suitable for use in the next reaction.

reactant | 2-chloro-3-cyano-6-(imidazol-1-yl)-4-methylpyridine | 2.1 g | ClC1=NC(=CC(=C1C#N)C)N1C=NC=C1 | C10H7ClN4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 10 mL | O | H2O
product | 2-Chloro-6-(imidazol-1-yl)-4-methylpyridine-3-carboxamide | 2.35 g | ClC1=NC(=CC(=C1C(=O)N)C)N1C=NC=C1 | C10H9ClN4O
